US07662771B2
5-[5-(2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid
Add a solution of LiOH (1.04 g, 43.6 mmol) in water (15 mL) to a rapidly stirred solution of 4-[5-(2-methoxy-phenyl)-isoxazol-3-yl]-butyric acid methyl ester (2.28 g, 8.7 mmol) in dioxane (120 mL), stir at room temperature overnight After 1 hour, acidify to pH 1 with 5N HCl solution and concentrate to remove the majority of the dioxane. Add water to residue and place in refrigerator overnight Filter out solids, wash with water, dry in a 50° C. vacuum oven for 6 hours to afford the title compound (3.11 g, 87%). MS (IS) 262 (M+1)+.

reactant | LiOH | 43.6 mmol, 1.04 g | [Li+].[OH-]
reactant | 4-[5-(2-methoxy-phenyl)-isoxazol-3-yl]-butyric acid methyl ester | 8.7 mmol, 2.28 g | COC(CCCC1=NOC(=C1)C1=C(C=CC=C1)OC)=O | C15H17NO4
reactant | HCl | 5N | Cl | ClH
reactant | dioxane | 120 mL | O1CCOCC1 | C4H8O2
solvent | water | 15 mL | O | H2O
product | 5-[5-(2-hydroxy-phenyl)-isoxazol-3-yl]-pentanoic acid | 3.11 g, 87% | OC1=C(C=CC=C1)C1=CC(=NO1)CCCCC(=O)O | C14H15NO4
